US04423213
To a solution of sodium 7-(5-amino-5-carboxypentanamido)-3-hydroxymethyl-3-cephem-4-carboxylate (10 g) in water (50 ml) and acetone (30 ml) was added ethyl chloroformate (7.14 g), and the mixture was stirred at 7°-8° C. for 45 minutes while maintaining the pH value at 7.8-8 with 40% aqueous potassium carbonate. To the solution was added diphenyldiazomethane (14.7 g) in ethyl acetate (122 ml), and the mixture was stirred at ambient temperature for an hour while maintaining the pH value at 2.5 with 6 N hydrochloric acid. The organic layer was separated, washed with an aqueous sodium chloride. The solution was evaporated to give a residue, which was dissolved in acetone (30 ml). To diisopropyl ether (300 ml) was added the resultant acetone solution, and the precipitates were collected by filtration to give benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-hydroxy-methyl-3-cephem-4-carboxylate (18.15 g).

reactant | sodium 7-(5-amino-5-carboxypentanamido)-3-hydroxymethyl-3-cephem-4-carboxylate | 10 g | NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)C(=O)O.[Na+]
reactant | ethyl chloroformate | 7.14 g | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | diphenyldiazomethane | 14.7 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
reactant | water | 50 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 122 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | benzhydryl 7-(5-benzhydryloxycarbonyl-5-ethoxycarbonylaminopentanamido)-3-hydroxy-methyl-3-cephem-4-carboxylate | 18.15 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C(CCCC(=O)NC1[C@@H]2N(C(=C(C(S2)C)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)NC(=O)OCC | C43H43N3O9S
